US05385692
1.10 g (14.7 mM) of glycine, 0.29 (7.25 mM) of NaOH, 5.8 ml of distilled water were placed in a 100 ml-three necked flask and dissolved to prepare a solution. To the solution, 5.8 ml of dioxane was added, followed by stirring or a ice-common salt bath. To the mixture, a solution of 0.29 g (7.25 mM) of NaOH in 2.5 ml of distilled water and a solution of 2.14 g (7.29 mM) of 2-octylindan-5-carbonyl chloride in 10 ml of dioxane were gradually added dropwise at the same time at -1° to 3° C. by means of a dropping funnel, respectively, followed by stirring for 30 minutes at 1°-2° C. After the reaction, 0.87 ml of concentrated HCl was added to the reaction mixture to precipitate a crystal. The crystal was recovered by filtration and washed with water, followed by drying and recrystallization from methanol to obtain 1.61 g of N-(2-octylindan-5-carbonyl)glycin (Yield: 66.6%).

reactant | glycine | 14.7 mM, 1.10 g | NCC(=O)O | C2H5NO2
reactant | NaOH | [OH-].[Na+]
reactant | NaOH | 7.25 mM, 0.29 g | [OH-].[Na+]
reactant | 2-octylindan-5-carbonyl chloride | 7.29 mM, 2.14 g | C(CCCCCCC)C1CC2=CC=C(C=C2C1)C(=O)Cl | C18H25ClO
reactant | HCl | 0.87 ml | Cl | ClH
solvent | water | 2.5 ml | O | H2O
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 5.8 ml | O1CCOCC1 | C4H8O2
solvent | water | 5.8 ml | O | H2O
product | N-(2-octylindan-5-carbonyl)glycin | 1.61 g, Yield: 66.6% | C(CCCCCCC)C1CC2=CC=C(C=C2C1)C(=O)NCC(=O)O | C20H29NO3
